US06911468B2
(2) 4-{1-[3-(4-Benzylphenoxy)propyl]-5-methyl-1H-pyrrol-2-yl}phenol
To a solution of 2-(4-benzyloxyphenyl)-1-[3-(4-benzylphenoxy)propyl]-5-methyl-1H-pyrrole (1.15 g, 2.26 mmol) in ethanol (60 ml) and tetrahydrofuran (30 ml) was added 10% palladium carbon (200 mg) and the mixture was stirred for 4 hours under hydrogen atmosphere. The insoluble matter was filtered out and the filtrate was concentrated to give the object compound as an oily substance. 920 mg (yield: 98.0%)

reactant | 2-(4-benzyloxyphenyl)-1-[3-(4-benzylphenoxy)propyl]-5-methyl-1H-pyrrole | 2.26 mmol, 1.15 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1N(C(=CC1)C)CCCOC1=CC=C(C=C1)CC1=CC=CC=C1 | C34H33NO2
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | palladium carbon | 200 mg | [C].[Pd]
product | 4-{1-[3-(4-Benzylphenoxy)propyl]-5-methyl-1H-pyrrol-2-yl}phenol | yield: 98.0% | C(C1=CC=CC=C1)C1=CC=C(OCCCN2C(=CC=C2C)C2=CC=C(C=C2)O)C=C1 | C27H27NO2
